* Copyright 2014 Avago Technologies Limited. All Right Reserved
*
* ACPL-K30T  Spice Macromodel
.subckt acpl-k30t AN CA VOUT+ VOUT-
E1 N002 CA N014 N016 {CTR}
XX1 AN CA N016 N014 vbu
XX2 N002 CA N017 N015 pdnoc
XX3 N002 CA N008 N017 pdnoc
XX4 N002 CA N015 N013 pdnoc
XX5 N002 CA N013 N012 pdnoc
XX6 N002 CA N012 N010 pdnoc
XX7 N002 CA N010 N007 pdnoc
XX8 N002 CA N007 N004 pdnoc
XX9 N002 CA N004 N003 pdnoc
XX10 N002 CA N003 P001 pdnoc
XX11 N002 CA P002 P003 pdnoc
E2 N011 VOUT- N008 N001 1
R2 N009 N011 1k
D1 VOUT- N001 D
D2 N008 VOUT+ D
E3 N009 N006 N008 VOUT- 1
Q1 VOUT+ N006 N005 0 NPN
R3 VOUT- N005 3k
C1 VOUT- N009 37n
XX12 N002 CA P003 N001 pdnoc
XX13 N002 CA P001 P002 pdnoc
C2 VOUT- VOUT+ 100p
.param CTR=0.083
.ends acpl-k30t

.subckt vbu AN CA LOPN LOPP
RSERIES AN 5 5
DELECT 5 CA VBUNOR
ELED 6 LOPN 5 CA 1
DOPTIC 6 8 VBUNORC
FPHOTO LOPN 3 VSENSE 1
VSENSE 8 LOPN 0
RL 3 LOPN 0.1
EOUT LOPP LOPN 3 LOPN 60
VSIM LOPN CA 0
Rnl 6 N001 5k
Vnl N002 LOPN 0
Fnl LOPN LOPN Vnl 1
Dsw N001 N002 DSW
.model DSW D Is=1e-4
.model VBUNOR D IS=330E-21 N=1.5 XTI=3 EG=1.52 BV=10.38 IBV=100u
+  CJO=60p VJ=.75 M=.3333 FC=.5 TT=20n
.model VBUNORC D IS=330E-21 N=1.5 XTI=3 EG=1.52 BV=10.38 IBV=100u
+  CJO=0 VJ=.75 M=.3333 FC=.5 TT=0
.ends vbu

.subckt pdnoc LOPP LOPN AN CA
D1 AN CA PDC
G1 CA AN LOPP LOPN 0.0010
.model PDC D IS=1E-14 N=1.5 CJO=0p M=0.95 VJ=0.75 ISR=100.0E-12 BV=100 TT=5E-9
.ends pdnoc

.model D D

.model NPN NPN
.model PNP PNP


